US04833164
2-(Phenylmethyl)-1-methoxynaphthalene
A mixture of 2-phenylmethyl-1-naphthol (40.0 g, 0.17 mole), methyl iodide (36.4 g, 0.26 mole), potassium carbonate (35.9 g, 0.26 mole) and acetone (1000 mL) was heated at reflux with stirring for 17 hours, then cooled and filtered. The acetone was removed under vacuum, and the residue was dissolved in ethyl acetate, washed with water and brine, dried over magnesium sulfate and concentrated. The residual oil was distilled in a short-path distillation apparatus at approximately 160°-180°/0.2 torr to provide the title compound (41.5 g, 98%) as an off-white solid, mp 56°-59°.

reactant | 2-phenylmethyl-1-naphthol | 0.17 mole, 40.0 g | C1(=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C17H14O
reactant | methyl iodide | 0.26 mole, 36.4 g | CI | CH3I
reactant | potassium carbonate | 0.26 mole, 35.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1000 mL | CC(=O)C | C3H6O
product | 2-(Phenylmethyl)-1-methoxynaphthalene | 41.5 g, 98% | C1(=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)OC | C18H16O
